US07635776B2
In an atmosphere of argon, the ligand (6) obtained in Example 6 (0.10 g, 0.10 mmol) was suspended in methylene chloride (5 ml) in a Schlenk glassware, and to this suspension was added trimethylaluminum in toluene (0.20 ml of 1M solution, 0.20 mmol) via a syringe. Then, the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture changed from a white suspension into a colorless solution. After completion of the stirring, the solvent was removed by evaporation under reduced pressure. Hexane (5 ml) was added to the residue, and the mixture was further stirred for one hour. After that, the mixture was allowed to stand for a while, and the supernatant liquid was removed by means of a syringe. The precipitate was dried under reduced pressure to give a catalyst. To the catalyst obtained was added methylene chloride (16 ml), followed by the addition of N,N-diisopropylethylamine (0.59 ml, 3.4 mmol). The mixture was cooled to −78° C. in a dry ice-ethanol bath. To this were added acetyl bromide (0.28 ml, 3.8 mmol) and isovaleraldehyde (0.21 ml, 2.0 mmol) via a syringe, and the mixture was stirred at −50° C. for 24 hours, during which time the reaction solution turned pale yellow. After completion of the reaction, the reaction mixture changed to orange when it was warmed up to room temperature. The reaction mixture was filtered through a glass filter packed with silica gel, and the solvent of the filtrate was evaporated off to give (S)-4-isobutyl-2-oxetanone (0.20 g, 77% yield). The asymmetric yield of the product was measured by means of GLC using a capillary column Chirasil-DEX CB (0.25 mm×25 m, membrane thickness 0.25 μm, GL Science) and was found to be 93% e.e.

reactant | trimethylaluminum | C[Al](C)C
reactant | toluene | 0.20 mmol, 1M, 0.20 ml | C1(=CC=CC=C1)C | C7H8
reactant | N,N-diisopropylethylamine | 3.4 mmol, 0.59 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl bromide | 3.8 mmol, 0.28 ml | C(C)(=O)Br | C2H3BrO
reactant | isovaleraldehyde | 2.0 mmol, 0.21 ml | C(CC(C)C)=O | C5H10O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | 1,3-bis[{(2S,6S)-1,7-di(trifluoromethanesulfonyl)-2,6-diisopropyl-1,4,7-triazaheptan-4-yl}methyl]benzene | 0.10 mmol, 0.10 g | FC(S(=O)(=O)N[C@H](CN(C[C@@H](NS(=O)(=O)C(F)(F)F)C(C)C)CC1=CC(=CC=C1)CN(C[C@@H](NS(=O)(=O)C(F)(F)F)C(C)C)C[C@@H](NS(=O)(=O)C(F)(F)F)C(C)C)C(C)C)(F)F | C32H52F12N6O8S4
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-isobutyl-2-oxetanone | 0.20 g, 77% yield | C(C(C)C)[C@H]1CC(O1)=O | C7H12O2
